US06025367
2-(2-Hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester (D2)
2-Piperidine ethanol (39.6 ml, 0.31 mol) was dissolved in 5M aq NaOH (62 ml, 0.31 mol) and dioxan (100 ml). The mixture was cooled to 0° C. and treated with benzyl chloroformate (45.3 ml, 0.32 mol) and 5M NaOH (62 ml, 0.31 mol). Stirring was continued at room temp. for 18 hours. Dioxan was removed in vacuo and the aqueous phase extracted with ether before acidifying with 5N HCl and extracting again with ether. The organic phase was dried and evaporated in vacuo and the residue purified by chromatography on silica gel to give the title compound (77.2 g. 95%). MH+ 264.

reactant | 2-Piperidine ethanol | 0.31 mol, 39.6 ml | N1C(CCCC1)CCO | C7H15NO
reactant | NaOH | 0.31 mol, 5M, 62 ml | [OH-].[Na+]
reactant | benzyl chloroformate | 0.32 mol, 45.3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 0.31 mol, 5M, 62 ml | [OH-].[Na+]
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Hydroxyethyl)-piperidine-1-carboxylic acid benzyl ester | 77.2 g, 95% | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCO | C15H21NO3
